US04375477
1-Fluoro-2-tert-butoxycarbonylamino-4-pentene (1.02 g, 5 mmoles), dissolved in glacial acetic acid (15 ml), is added to potassium permanganate (2.37 g, 15 mmoles) in water (75 ml), and kept overnight at room temperature. After destroying the excess of permanganate with 10% sodium bisulfite solution and saturating with sodium chloride, the mixture is extracted twice with ether. Evaporation gives 4-fluoro-3-tert-butoxycarbonylamino-1-butanoic acid (776 mg) as a white solid which on recrystallization from ether/petroleum ether affords 676 mg (61%) of pure material, m.p. 112°-112.5° C.

reactant | 1-Fluoro-2-tert-butoxycarbonylamino-4-pentene | 5 mmoles, 1.02 g | FCC(CC=C)NC(=O)OC(C)(C)C | C10H18FNO2
reactant | potassium permanganate | 15 mmoles, 2.37 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 75 ml | O | H2O
product | 4-fluoro-3-tert-butoxycarbonylamino-1-butanoic acid | 776 mg | FCC(CC(=O)O)NC(=O)OC(C)(C)C | C9H16FNO4
